US05972241
Preparation of 5-Octyloxy-2-[4-(3-(2-(2-(nonafluorobutoxy)tetrafluoroethoxy)-2,2-difluoroethoxy)-(S)-2-fluoropropoxy)-2,3-difluorophenyl]pyrimidine
The title compound was prepared essentially as in Example 18 by combining 5-hydroxy-2-[4-(3-(2-(2-(nonafluorobutoxy)tetrafluoroethoxy)-2,2-difluoroethoxy)-(S)-2-fluoropropoxy)-2,3-difluorophenyl]pyrimidine (0.89 g, 1.24 mmol), octyl bromide (0.3 g, 1.5 mmol), and potassium carbonate (0.2 g, 1.5 mmol) in acetonitrile (12 mL). The resulting mixture was heated to reflux overnight, deionized water (20 mL) was added, and the resulting crude product was collected by filtration. The product was recrystallized from methanol to yield 0.35 g.

reactant | 5-hydroxy-2-[4-(3-(2-(2-(nonafluorobutoxy)tetrafluoroethoxy)-2,2-difluoroethoxy)-(S)-2-fluoropropoxy)-2,3-difluorophenyl]pyrimidine | 1.24 mmol, 0.89 g | OC=1C=NC(=NC1)C1=C(C(=C(C=C1)OC[C@H](COCC(F)(F)OC(C(OC(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)F)F)F | C21H12F18N2O5
reactant | octyl bromide | 1.5 mmol, 0.3 g | C(CCCCCCC)Br | C8H17Br
reactant | potassium carbonate | 1.5 mmol, 0.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 20 mL | O | H2O
solvent | acetonitrile | 12 mL | C(C)#N | C2H3N
product | 5-Octyloxy-2-[4-(3-(2-(2-(nonafluorobutoxy)tetrafluoroethoxy)-2,2-difluoroethoxy)-(S)-2-fluoropropoxy)-2,3-difluorophenyl]pyrimidine | C(CCCCCCC)OC=1C=NC(=NC1)C1=C(C(=C(C=C1)OC[C@H](COCC(F)(F)OC(C(OC(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)F)F)F | C29H28F18N2O5
